US06399631B1
9-Isopropyl-3-nitro-9H-carbazole
A solution of 9-Isopropyl-9H-carbazole (Acros, 1.5 9, 7.2 mmol) in AcOH (50 ml) was treated dropwise with a solution of nitric acid (3.35 ml) in AcOH (10 mL) over 30 minutes. When the reaction was complete the mixture was poured into water and stirred for 15 minutes, then the solid filtered and washed with Et2O to afford the desired product as a solid (1.6 g, 87%).

reactant | 9-Isopropyl-9H-carbazole | 7.2 mmol | C(C)(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H15N
reactant | nitric acid | 3.35 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 9-Isopropyl-3-nitro-9H-carbazole | 1.6 g, 87% | C(C)(C)N1C2=CC=CC=C2C=2C=C(C=CC12)[N+](=O)[O-] | C15H14N2O2
